US08809402B2
5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester (280 mg, 0.8 mmol) was added to a mixture of methanol (4 mL) and 2M aqueous NaOH (2 mL). The mixture was stirred for 48 hours at room temperature, then neutralized by addition of 1M aqueous HCl. Solvent was removed under reduced pressure and the mixture was coevaporated twice with toluene to give crude 5-iodo-4′-methyl-biphenyl-3-carboxylic acid, which was used directly in the next step.

reactant | 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 0.8 mmol, 280 mg | COC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C15H13IO2
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 5-iodo-4′-methyl-biphenyl-3-carboxylic acid | IC=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O | C14H11IO2
